### PR TITLE
minor changes and additions to ereal.v

### PR DESCRIPTION
**Pull request by affeldt-aist**
used to develop the theory of sequences of extended real numbers

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -193,6 +194,10 @@ Proof. by []. Qed.
 Lemma lte_pinfty (R : realDomainType) (x : R) : x%:E < +oo.
 Proof. exact: num_real. Qed.
 
+Lemma gee0P (R : realDomainType) (x : {ereal R}) :
+  0%:E <= x -> x = +oo \/ exists r, x = r%:E.
```
Comment (CohenCyril) [inline theories/ereal.v:198]:
```suggestion
Lemma gee0P (R : realDomainType) (x : {ereal R}) :
  0%:E <= x <-> x = +oo \/ exists2 r, r >= 0 & x = r%:E.
```

File: theories/ereal.v [hunk 2]
```diff
@@ -479,6 +485,35 @@ move=> fg; elim => [|n ih]; first by rewrite !big_ord0.
 by rewrite 2!big_ord_recr /= lee_add.
 Qed.
 
+Lemma lee_sum_seq (T : eqType) (f g : T -> {ereal R}) s (p : pred T) :
+  (forall i, i \in s -> f i <= g i) -> \sum_(i <- s | p i) f i <= \sum_(i <- s | p i) g i.
```
Comment (CohenCyril) [inline theories/ereal.v:489]:
```suggestion
Lemma lee_sum I (f g : I -> {ereal R}) s (P : pred I) :
  (forall i, P i -> f i <= g i) -> \sum_(i <- s | P i) f i <= \sum_(i <- s | p i) g i.
```

File: theories/ereal.v [hunk 3]
```diff
@@ -479,6 +485,35 @@ move=> fg; elim => [|n ih]; first by rewrite !big_ord0.
...
+Proof.
+elim: s => [|h t ih fg]; first by rewrite 2!big_nil.
+rewrite 2!big_cons; case: ifPn => ?.
+by rewrite lee_add // ?fg ?mem_head // ih // => i it; rewrite fg // inE it orbT.
+by apply ih => i it; rewrite fg // inE it orbT.
+Qed.
+
+Lemma lee_sum_nneg_seq (T : eqType) (s1 s2 : seq T)
+  (f : T -> {ereal R}) : (forall t, 0%:E <= f t) -> {subset s1 <= s2} ->
+  uniq s1 -> uniq s2 -> \sum_(t <- s1) f t <= \sum_(t <- s2) f t.
```
Comment (CohenCyril) [inline theories/ereal.v:499]: Depending on where/how it is used, I would rather have the following:
```suggestion
Lemma lee_sum_nneg I (s : seq I) (P Q : pred I)
  (f : I -> {ereal R}) : (forall i, P i -> Q i -> 0%:E <= f i) ->
  \sum_(i <- s | P i && Q i) f i <= \sum_(t <- s | P i) f i.
```
But I wonder how much all of this is would be subsumed by systematically duplicating ssrnum in ereal?

Comment (affeldt-aist) [reply theories/ereal.v]: I have added the `lee_sum_nneg` lemma you proposed and used is to prove `lee_sum_nneg_seq` (now `lee_sum_nneg_subset`) which is now a bit more general (no  `uniq s2` hypothesis) but that it not directly
related.

File: theories/ereal.v [hunk 4]
```diff
@@ -472,11 +485,51 @@ move: x y => [x| |] [y| |]; rewrite ?(lte_pinfty,lte_ninfty)//.
...
-  (forall i, f i <= g i) -> forall n, \sum_(i < n) f i <= \sum_(i < n) g i.
+Lemma lee_sum I (f g : I -> {ereal R}) s (P : pred I) :
+  (forall i, P i -> f i <= g i) -> \sum_(i <- s | P i) f i <= \sum_(i <- s | P i) g i.
 Proof.
-move=> fg; elim => [|n ih]; first by rewrite !big_ord0.
-by rewrite 2!big_ord_recr /= lee_add.
+elim: s => [|h t ih fg]; first by rewrite 2!big_nil.
+rewrite 2!big_cons; case: ifPn => ?.
+by rewrite lee_add // ?fg ?mem_head // ih // => i it; rewrite fg // inE it orbT.
+by apply ih => i it; rewrite fg // inE it orbT.
```
Comment (CohenCyril) [inline theories/ereal.v:494]:
```suggestion
by move=> Pfg; elim/big_ind2: _ => // *; apply: lee_add.
```

File: theories/ereal.v [hunk 5]
```diff
@@ -472,11 +485,51 @@ move: x y => [x| |] [y| |]; rewrite ?(lte_pinfty,lte_ninfty)//.
...
+Proof.
+move=> f0 s12 u1.
+rewrite (le_trans _ (@lee_sum_nneg _ _ xpredT (mem s1) _ _)) //=.
+rewrite [in X in _ <= X](eq_bigl (predI (mem s1) xpredT)) /=; last first.
+  by move=> ?; rewrite inE andbT.
+rewrite -big_filter_cond (le_trans _ (lee_sum_nneg_undup _ f0)) //.
+rewrite le_eqVlt; apply/orP; left; apply/eqP/perm_big.
+rewrite -(undup_id u1) perm_undup // => i.
+by rewrite mem_filter mem_undup andb_idr // => /s12.
+Qed.
```
Comment (CohenCyril) [inline theories/ereal.v:525]: Not sure this is useful :-/

File: theories/ereal.v [hunk 6]
```diff
@@ -472,11 +485,51 @@ move: x y => [x| |] [y| |]; rewrite ?(lte_pinfty,lte_ninfty)//.
...
+
+Lemma lee_sum_nneg_ord (f : nat -> {ereal R}) : (forall n, 0%:E <= f n) ->
+  {homo (fun n => \sum_(i < n) (f i))%E : i j / (i <= j)%N >-> i <= j}.
+Proof.
+move=> ? i j ?; rewrite -!(big_mkord xpredT) -big_filter -[X in _ <= X]big_filter.
+apply: lee_sum_nneg_subset => //; last by rewrite filter_predT iota_uniq.
+by move=> k; rewrite !(mem_filter,mem_iota,add0n,subn0) /= => /leq_trans; apply.
```
Comment (CohenCyril) [inline theories/ereal.v:532]:
```suggestion
move=> f_ge m n /(big_ord_widen _)->; rewrite big_mkcond lee_sum//=.
by move=> i; case: ifP.
```

File: theories/ereal.v (hunk 5 above)
Comment (affeldt-aist) [reply theories/ereal.v:521]: Well, I do use `lee_sum_nneg_subset` in the `integral_sketch` branch (it is used together with fsets).

File: theories/ereal.v [hunk 7]
```diff
@@ -495,11 +509,40 @@ move: x y => [x| |] [y| |]; rewrite ?(lte_pinfty,lte_ninfty)//.
...
+Lemma lee_sum_nneg_subset I (s : seq I) (P Q : {pred I}) (f : I -> {ereal R}) :
+  {subset Q <= P} -> {in [predD P & Q], forall i, (0%:E <= f i)%E} ->
+  (\sum_(i <- s | Q i) f i <= \sum_(i <- s | P i) f i)%E.
+Proof.
+move=> QP PQf; rewrite big_mkcond [X in (_ <= X)%E]big_mkcond lee_sum// => i.
+by move/implyP: (QP i); move: (PQf i); rewrite !inE -!topredE/=; do !case: ifP.
+Qed.
+
+Lemma lee_sum_nneg_subfset (T : choiceType) (A B : {fset T}%fset) (f : T -> {ereal R}) :
+  {subset A <= B} -> (forall t, 0%:E <= f t)%E -> (\sum_(t <- A) f t <= \sum_(t <- B) f t)%E.
```
Comment (CohenCyril) [inline theories/ereal.v:541]:
```suggestion
  {subset A <= B} -> {in [predD B & A], forall i, (0%:E <= f i)%E} -> (\sum_(t <- A) f t <= \sum_(t <- B) f t)%E.
```

**Review by CohenCyril — APPROVED** [review]
LGTM
